US07049318B2
5-Amino-2-hydroxy-3-methyl-6-pyridin-4-yl-3H-pyrimidin-4-one:
To a solution of 2-hydroxy-3-methyl-5-nitro-6-pyridin-4-yl-3H-pyrimidin-4-one (22.6 mmol) in 200 mL methanol and 75 mL 1N sodium hydroxide was added 50 mg Pd/C and stirred overnight under a balloon filled with hydrogen. The solvents were removed under vacuum. The solids were suspended in water and acidified to pH 5 with SN HCl. The solid was collected by filtration. M+1=219.

reactant | 2-hydroxy-3-methyl-5-nitro-6-pyridin-4-yl-3H-pyrimidin-4-one | 22.6 mmol | OC1=NC(=C(C(N1C)=O)[N+](=O)[O-])C1=CC=NC=C1 | C10H8N4O4
reactant | hydrogen | [H][H] | H2
solvent | methanol | 200 mL | CO | CH4O
solvent | sodium hydroxide | 1N, 75 mL | [OH-].[Na+]
catalyst | Pd/C | 50 mg | [Pd] | Pd
product | 5-Amino-2-hydroxy-3-methyl-6-pyridin-4-yl-3H-pyrimidin-4-one | NC=1C(N(C(=NC1C1=CC=NC=C1)O)C)=O | C10H10N4O2
